US05939432
To a well-stirred and ice-cooled solution of 2-amino-3-benzoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (0.78 mmol, 0.2 g) in dichloromethane (20 ml) under an argon atmosphere, was added triethylamine (0.162 ml) and then p-toluenesulphonyl chloride (0.93 mmol, 177 mg) portionwise. The suspension was stirred a room temperature for 24 h and the precipitated solid was filtered. The organic solution was evaporated under vacuum to give a solid residue which was chromatographed on silica gel eluting with an ethyl ether and petroleum ether mixture to afford 2-amino-3-benzoyl-6-(4-methylphenylsulphonyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine.

reactant | 2-amino-3-benzoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 0.78 mmol, 0.2 g | NC1=C(C2=C(CNCC2)S1)C(C1=CC=CC=C1)=O | C14H14N2OS
reactant | triethylamine | 0.162 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulphonyl chloride | 0.93 mmol, 177 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-amino-3-benzoyl-6-(4-methylphenylsulphonyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | NC1=C(C2=C(CN(CC2)S(=O)(=O)C2=CC=C(C=C2)C)S1)C(C1=CC=CC=C1)=O | C21H20N2O3S2
